US07259183B2
1.83 g (13 mmol) of 2-(4-fluoro-phenyl) ethyl amine were added to 2.32 g (13 mmol) of 4-tert-butyl-2-hydroxy benzaldehyde dissolved in 130 ml methanol. The reaction mixture was stirred at rt over night under nitrogen. 492 mg (13 mmol) of sodium borohydride were added in portions and the reaction mixture was stirred for 2 h at rt. The solvent was evaporated and the residue was dissolved in DCM. The organic layer was washed with water and with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (250 g silica gel; DCM, then DCM/methanol 19:1) to yield 3.26 g (83%) of 5-tert-butyl-2-{[2-(4-fluoro-phenyl)-ethylamino]-methyl}-phenol as a yellow viscous oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.24 (t, 2H), 7.09 (t, 2H), 6.95 (d, 1H), 6.71 (d, 1H), 6.68 (s, 1H), 3.76 (s, 2H), 1.23 (s, 9H).

reactant | 2-(4-fluoro-phenyl) ethyl amine | 13 mmol, 1.83 g | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | 4-tert-butyl-2-hydroxy benzaldehyde | 13 mmol, 2.32 g | C(C)(C)(C)C1=CC(=C(C=O)C=C1)O | C11H14O2
reactant | sodium borohydride | 13 mmol, 492 mg | [BH4-].[Na+]
solvent | methanol | 130 ml | CO | CH4O
product | 5-tert-butyl-2-{[2-(4-fluoro-phenyl)-ethylamino]-methyl}-phenol | 3.26 g, 83% | C(C)(C)(C)C=1C=CC(=C(C1)O)CNCCC1=CC=C(C=C1)F | C19H24FNO
